US06734302B2
To a solution of 4-{3-[4,5-bis-(4-chloro-phenyl)-4,5-dihydro-1H-imidazol-2-yl]-4-methoxy-benzyl}-morpholine (100 mg, 0.20 mmol, as in the U.S. Provisional applications incorporated by reference herein, Example 31) in methylene chloride (10 mL) were sequentially added triethylamine (0.10 mL, 0.712 mmol) and isobutyryl chloride (42 μL, 0.392 mmol). The reaction mixture was stirred for 12 h. The solvents were removed under reduced pressure. Saturated sodium bicarbonate (2 mL) and methylene chloride (20 mL) were added and the layers were separated. The aqueous layer was extracted with methylene chloride (1×100 mL). The combined organic extracts were evaporated. Purification of the crude residue by Biotage flash chromatography eluting with 0-5% methanol in ethyl acetate gave 1-[4,5-bis-(4-chloro-phenyl)-2-(2-methoxy-5-morpholin-4-ylmethyl-phenyl)-4,5-dihydro-imidazol-1-yl]-2-methyl-propan-1-one. HR-MS (ES, m/z) calculated for C31H34N3O3Cl2[(M+H)+]566.1972, observed 566.1977.

reactant | 4-{3-[4,5-bis-(4-chloro-phenyl)-4,5-dihydro-1H-imidazol-2-yl]-4-methoxy-benzyl}-morpholine | ClC1=CC=C(C=C1)C1N=C(NC1C1=CC=C(C=C1)Cl)C=1C=C(CN2CCOCC2)C=CC1OC | C27H27Cl2N3O2
reactant | triethylamine | 0.712 mmol, 0.10 mL | C(C)N(CC)CC | C6H15N
reactant | isobutyryl chloride | 0.392 mmol, 42 μL | C(C(C)C)(=O)Cl | C4H7ClO
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | 1-[4,5-bis-(4-chloro-phenyl)-2-(2-methoxy-5-morpholin-4-ylmethyl-phenyl)-4,5-dihydro-imidazol-1-yl]-2-methyl-propan-1-one | ClC1=CC=C(C=C1)C1N=C(N(C1C1=CC=C(C=C1)Cl)C(C(C)C)=O)C1=C(C=CC(=C1)CN1CCOCC1)OC | C31H33Cl2N3O3
